US07902178B2
a) 11β-(4-Ethenylphenyl)-5-hydroxy-5α-estr-9-ene-3,17-dione 3-(2,2-dimethyl-propane-1,3-diyl) ketal
3.3 g of magnesium turnings are placed in 14 ml of absolute tetrahydrofuran under inert gas and one drop of 1,2-dibromoethane is added. After the reaction has started, a solution of 25 g of 4-bromostyrene in 137 ml of absolute tetrahydrofuran is slowly added dropwise so that the internal temperature remains in the range from 40 to 45° C. The reaction mixture is subsequently stirred for one hour until the magnesium has completely reacted. 2.26 g of copper(I) chloride are then added to the mixture. A solution of 8.5 g of 5,10-epoxy-5α,10α-estr-9(11)-ene-3,17-dione 3-(2,2-dimethylpropane-1,3-diyl) ketal (for preparation cf. Tetrahedron Lett. 26, 2069-2072 (1985)) in 137 ml of absolute tetrahydrofuran is slowly added dropwise. The reaction mixture is stirred for one hour at room temperature and then poured into saturated aqueous ammonium chloride solution. The aqueous phase is extracted with ethyl acetate and the organic phases are combined, washed with saturated aqueous sodium chloride solution and dried over sodium sulfate. The product is filtered and concentrated under vacuum. Column chromatography on silica gel with a hexane/ethyl acetate mixture gives 6.76 g of the title compound as a colorless foam.

reactant | magnesium | 3.3 g | [Mg] | Mg
reactant | 4-bromostyrene | 25 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | 5,10-epoxy-5α,10α-estr-9(11)-ene-3,17-dione 3-(2,2-dimethylpropane-1,3-diyl) ketal | 8.5 g | CC1(COC2(C[C@]34CC[C@H]5[C@@H]6CCC([C@@]6(C)CC=C5[C@@]3(CC2)O4)=O)OC1)C | C23H32O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | one drop | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 137 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 137 ml | O1CCCC1 | C4H8O
catalyst | copper(I) chloride | 2.26 g | [Cu]Cl
product | 11β-(4-Ethenylphenyl)-5-hydroxy-5α-estr-9-ene-3,17-dione 3-(2,2-dimethyl-propane-1,3-diyl) ketal | 6.76 g | CC1(COC2(C[C@@]3(CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H](C4=C3CC2)C2=CC=C(C=C2)C=C)=O)O)OC1)C | C31H40O4
